US08349865B2
Step 1: 5-[(4-Acetyl-2,6-dichlorophenyl)amino]-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[c]-2,6-naphthyridin-1(2H)-one
The title compound was prepared according to the procedure in (Example 102, Step 1) using 5-[(4-acetyl-2,6-dichlorophenyl)amino]-9-bromobenzo[c]-2,6-naphthyridin-1(2H)-one and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane as the starting materials.

reactant | 5-[(4-acetyl-2,6-dichlorophenyl)amino]-9-bromobenzo[c]-2,6-naphthyridin-1(2H)-one | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)Br)Cl | C20H12BrCl2N3O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
product | 5-[(4-Acetyl-2,6-dichlorophenyl)amino]-9-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[c]-2,6-naphthyridin-1(2H)-one | C(C)(=O)C1=CC(=C(C(=C1)Cl)NC1=NC2=C(C=3C(NC=CC13)=O)C=C(C=C2)B2OC(C(O2)(C)C)(C)C)Cl | C26H24BCl2N3O4
